US04699920
11(a) (13E)-(9R, 11R,15RS)-11,15-Bis(tetrahydropyran-2-yloxy)-9-fluoro 15-methyl-13-prostenoic Acid Methyl Ester
A solution of 400 mg of (5Z,13E)-(9R, 11R,15RS)-11,15-bis(tetrahydropyran-2 -yloxy)-9-fluoro-15-methyl-5,13-prostadienoic acid methyl ester in 50 ml of ethyl acetate is shaken with 40 mg of pa 11adium/10% strength on carbon under a hydrogen atmosphere at 0° C. After absorption of 1 equivalent of hydrogen, the product is filtered off from the catalyst and evaporated under vacuum. The residue is absorbed on silica gel. With hexane/5-20% diethyl ether, 300 mg of the title compound is eluted as a colorless oil.

reactant | (5Z,13E)-(9R, 11R,15RS)-11,15-bis(tetrahydropyran-2 -yloxy)-9-fluoro-15-methyl-5,13-prostadienoic acid methyl ester | 400 mg | COC(CCC\C=C/C[C@H]1[C@@H](C[C@H]([C@@H]1\C=C\C(CCCCC)(C)OC1OCCCC1)OC1OCCCC1)F)=O | C32H53FO6
reactant | hydrogen | 1 equivalent | [H][H] | H2
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | (13E)-(9R, 11R,15RS)-11,15-Bis(tetrahydropyran-2-yloxy)-9-fluoro 15-methyl-13-prostenoic Acid Methyl Ester | COC(CCCCCC[C@H]1[C@@H](C[C@H]([C@@H]1\C=C\C(CCCCC)(C)OC1OCCCC1)OC1OCCCC1)F)=O | C32H55FO6
